US07598257B2
A mixture of (1-phenylvinyl)boronic acid (24.0 mg, 0.000162 mol) and 4-(4-bromo-1H-pyrazol-1-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine (50.0 mg, 0.000127 mol) in toluene (2.00 mL, 0.0188 mol) and ethanol (0.50 mL, 0.0086 mol) was treated with potassium carbonate (35 mg, 0.00025 mol) in water (1.00 mL, 0.0555 mol). The mixture was degassed by bubbling nitrogen. Tetrakis(triphenylphosphine)palladium(0) (10 mg, 0.00001 mol) was added and nitrogen was bubbled for 3 min. The reaction was heated in a sealed tube in the microwave at 100° C. for 30 min. The reaction was allowed to cool to rt and partitioned between ethyl acetate and water. The combined organic layer was dried over MgSO4, filtered and concentrated to give the crude material The crude product was purified by FCC on silica gel eluting with EtOAc/Hexanes (1:5) to give 4-[4-(1-phenylvinyl)-1H-pyrazol-1-yl]-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]-pyridine as a solid residue, LC/MS (M+H)+: 417.

reactant | (1-phenylvinyl)boronic acid | 0.000162 mol, 24.0 mg | C1(=CC=CC=C1)C(=C)B(O)O | C8H9BO2
reactant | 4-(4-bromo-1H-pyrazol-1-yl)-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]pyridine | 0.000127 mol, 50.0 mg | BrC=1C=NN(C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C16H21BrN4OSi
reactant | toluene | 0.0188 mol, 2.00 mL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 0.0086 mol, 0.50 mL | C(C)O | C2H6O
reactant | potassium carbonate | 0.00025 mol, 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.0555 mol, 1.00 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.00001 mol, 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[4-(1-phenylvinyl)-1H-pyrazol-1-yl]-1-[2-(trimethylsilyl)ethoxy]methyl-1H-pyrrolo[2,3-b]-pyridine | C1(=CC=CC=C1)C(=C)C=1C=NN(C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C24H28N4OSi
